US07834019B2
1) Production of 1-fluoro-3-[4-(4-nitrophenyl)piperazin-1-yl]propan-2-ol
Ethanol (15 mL) solution of 272 mg of epifluorohydrin and 500 mg of 1-(4-nitrophenyl)piperazine was heated under reflux for 15 hours, and then the reaction liquid was concentrated under reduced pressure. The residue was solidified from ethyl acetate to obtain 300 mg of the entitled compound as a yellow solid.

reactant | epifluorohydrin | 272 mg | C(F)C1CO1 | C3H5FO
reactant | 1-(4-nitrophenyl)piperazine | 500 mg | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
solvent | Ethanol | 15 mL | C(C)O | C2H6O
product | 1-fluoro-3-[4-(4-nitrophenyl)piperazin-1-yl]propan-2-ol | 300 mg | FCC(CN1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])O | C13H18FN3O3
